US07432266B2
To a solution of 4-[5-(1-cyclopentyl-3-ethyl-1H-indazol-6-yl)-1H-pyrazol-1-yl]benzoic acid (100.0 mg, 0.250 mmol) in 1.2 mL of methylene chloride under at atmosphere of argon at 0° C. was added N,N-carbonyldiimidazole (48.2 mg, 0.297 mmol) with stirring. After 30 minutes N,O-dimethylhydroxylamine hydrochloride (59.9 mg, 0.614 mmol) was added and the resultant suspension was warmed to room temperature, stirred for 24 hours and then 10 mL of water and 10 mL of ethyl acetate were added. The organic layer was separated, washed with 10 mL of 1N NaOH, 10 mL of water, 10 mL of brine, dried over sodium sulfate, and filtered. Approximately 2 g of silica gel were added and the mixture was evaporated to dryness under reduced pressure. The residue was purified by column chromatography over silica gel eluting with a linear gradient from 10% ethyl acetate in hexanes to 50% ethyl acetate in hexanes over 20 minutes to yield 4-[5-(1-cyclopentyl-3-ethyl-1H-indazol-6-yl)-1H-pyrazol-1-yl]-N-methoxy-N-methylbenzamide (55 mg, 50%) as a white solid.

reactant | 4-[5-(1-cyclopentyl-3-ethyl-1H-indazol-6-yl)-1H-pyrazol-1-yl]benzoic acid | 0.250 mmol, 100.0 mg | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C1=CC=NN1C1=CC=C(C(=O)O)C=C1)CC | C24H24N4O2
reactant | N,N-carbonyldiimidazole | 0.297 mmol, 48.2 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.614 mmol, 59.9 mg | Cl.CNOC
reactant | water | 10 mL | O | H2O
solvent | methylene chloride | 1.2 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-[5-(1-cyclopentyl-3-ethyl-1H-indazol-6-yl)-1H-pyrazol-1-yl]-N-methoxy-N-methylbenzamide | 55 mg, 50% | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C1=CC=NN1C1=CC=C(C(=O)N(C)OC)C=C1)CC | C26H29N5O2
